US20010021718A1
tert-Butyl (3R)-3-[3-(aminocarbonyl)-1,2,4-oxadiazol-5-yl]-6-phenylhexanoate
A solution of ethyl 5-{(1R)-1-[2-(tert-butoxy)-2-oxoethyl]-4-cyclohexylbutyl}-1,2,4-oxadiazole-3-carboxylate (Preparation 3) (400 mg, 1.01 mmol) in ethanol saturated with ammonia gas (20 ml) was stirred at room temperature for 18 hours. The solvent was removed under reduced pressure and the residue was purified by column chromatography on silica gel eluting with a gradient system of hexane:ethyl acetate (90:10) gradually changing to hexane: ethyl acetate (60:40) to afford the title compound as a white solid ( 260 mg).

reactant | ethyl 5-{(1R)-1-[2-(tert-butoxy)-2-oxoethyl]-4-cyclohexylbutyl}-1,2,4-oxadiazole-3-carboxylate | 1.01 mmol, 400 mg | C(C)(C)(C)OC(C[C@@H](CCCC1CCCCC1)C1=NC(=NO1)C(=O)OCC)=O | C21H34N2O5
reactant | ammonia | 20 ml | N | H3N
solvent | ethanol | C(C)O | C2H6O
product | tert-Butyl (3R)-3-[3-(aminocarbonyl)-1,2,4-oxadiazol-5-yl]-6-phenylhexanoate | 260 mg | NC(=O)C1=NOC(=N1)[C@@H](CC(=O)OC(C)(C)C)CCCC1=CC=CC=C1 | C19H25N3O4
